US09062028B2
Step A. tert-Butyl 2-(3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzamido)ethylcarbamate
The title compound was prepared using a procedure analogous to N-(2-cyanoethyl)-2-(4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetamide except that Example 1 was replaced with Example 95 and 3-aminopropanenitrile was replaced with tert-butyl 2-aminoethylcarbamate. LCMS, [M+H]+=666.4.

reactant | N-(2-cyanoethyl)-2-(4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetamide | C(#N)CCNC(CN1N=CC(=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)=O | C29H33N5O3
reactant | 3-aminopropanenitrile | NCCC#N | C3H6N2
reactant | tert-butyl 2-aminoethylcarbamate | NCCNC(OC(C)(C)C)=O | C7H16N2O2
product | tert-Butyl 2-(3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzamido)ethylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC=2C=C(C(=O)NCCNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C39H47N5O5
